US04172829
2-Methoxy-9-cyclohexyl-9H-adenine
If the procedure of Example 8 is repeated with the 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine used therein replaced by an equivalent weight of 9-(2-cyclohexenyl)-2-methoxy-9H-adenine, there is produced the title product.

reactant | 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCC | C13H17N5O
reactant | 9-(2-cyclohexenyl)-2-methoxy-9H-adenine | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OC | C12H15N5O
product | 2-Methoxy-9-cyclohexyl-9H-adenine | COC1=NC(=C2N=CN(C2=N1)C1CCCCC1)N | C12H17N5O
